US05166204
350 mg of N-phenyl-9-benzyl-7-bromo-1-dimethylaminomethyl-6-methoxycarbazole-3,4-dicarboximide was suspended in 5 ml of anisole. To the suspension was added 410 mg of anhydrous aluminum chloride. The resulting mixture was stirred for 120 hours at room temperature. The solvent was removed by distillation under reduced pressure. To the residue was added 20 ml of an aqueous saturated sodium hydrogencarbonate solution. The resulting mixture was stirred for 10 minutes at room temperature. The insoluble material was collected by filtration and was subjected to extraction with four 50-ml portions of chloroform. The extract was washed with an aqueous saturated sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was purified by column chromatography (eluant: chloroform) to obtain 250 mg (yield: 85%) of N-phenyl-7-bromo-1-dimethylaminomethyl-6-methoxycarbazole-3,4-dicarboximide as yellow amorphous product.

reactant | N-phenyl-9-benzyl-7-bromo-1-dimethylaminomethyl-6-methoxycarbazole-3,4-dicarboximide | 350 mg | C1(=CC=CC=C1)N1C(=O)C=2C=C(C=3N(C4=CC(=C(C=C4C3C2C1=O)OC)Br)CC1=CC=CC=C1)CN(C)C | C31H26BrN3O3
reactant | aluminum chloride | 410 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | anisole | 5 ml | C1(=CC=CC=C1)OC | C7H8O
product | N-phenyl-7-bromo-1-dimethylaminomethyl-6-methoxycarbazole-3,4-dicarboximide | 250 mg, yield: 85% | C1(=CC=CC=C1)N1C(=O)C=2C=C(C=3NC4=CC(=C(C=C4C3C2C1=O)OC)Br)CN(C)C | C24H20BrN3O3
